US04281136
2-Methyl-3,4,5-trichloroisothiazolium methylsulfate (10.7 g) thiourea (2.6 g) were added to 100 ml of ethanol at room temperature. After stirring overnight the product which had precipitated from solution was collected by filtration and recrystallized from ethanol to yield 5.3 g (78%) of 4,5-dichloro-2-methyl-4-isothiazolin-3-thione, mp 143-144.

reactant | 2-Methyl-3,4,5-trichloroisothiazolium methylsulfate | 10.7 g | COS(=O)(=O)[O-].C[N+]=1SC(=C(C1Cl)Cl)Cl
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4,5-dichloro-2-methyl-4-isothiazolin-3-thione | 5.3 g, 78% | ClC=1C(N(SC1Cl)C)=S | C4H3Cl2NS2
